US08003796B2
Step A. Preparation of 4-bromo-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one
A mixture of 4-hydroxy-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one (106.1 mg, 0.4 mmol) and phosphorous oxybromide (573.4 mg, 2.0 mmol, Alfa Aesar) was heated at 100° C. for 45 min and then cooed to room temperature. To the above residue was added saturated NaHCO3 aqueous solution at 0° C. followed by extraction with CH2Cl2 (3×). The combined extracts were washed with saturated NaHCO3 aqueous solution and brine, dried Na2SO4) and evaporated. The residual was purified by flash chromatography (0 to 100% EtOAc/hexanes) to yield 60.7 mg (46%) of the product as a yellow solid. MS (ESI) 328 (M+H).

reactant | 4-hydroxy-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 0.4 mmol, 106.1 mg | OC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H11NO4S
reactant | phosphorous oxybromide | 2.0 mmol, 573.4 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 4-bromo-1-(4-(methylsulfonyl)phenyl)pyridin-2(1H)-one | 60.7 mg, 46% | BrC1=CC(N(C=C1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C12H10BrNO3S
